US07414050B2
b) 2-Phenyl-propane-1,3-disulfonic acid
To 2-phenyl-propene-1,3-disulfonic acid (J. Amer. Chem. Soc., 66, 1105-9 (1944)) in THF-water (1:1) is added 10 wt % of 5% palladium on carbon and the mixture hydrogenated on a Parr shaker under 15 lb hydrogen pressure until the reaction is complete by thin layer chromatography (TLC). The mixture is filtered (Celite) and concentrated in vacuo to afford the title compound.

reactant | 2-phenyl-propene-1,3-disulfonic acid | C1(=CC=CC=C1)C(=CS(=O)(=O)O)CS(=O)(=O)O | C9H10O6S2
solvent | THF water | C1CCOC1.O
catalyst | palladium on carbon | [Pd] | Pd
product | 2-Phenyl-propane-1,3-disulfonic acid | C1(=CC=CC=C1)C(CS(=O)(=O)O)CS(=O)(=O)O | C9H12O6S2
